data/oMe_Silver.jsonl
{"reaction_id": "NR-075_1-CCCC(C)C_2-C","name": "Fujimoto-Belleau Reaction","level": "medium","reactants_smiles": ["CCCC(C)CC[Mg]Br","C1CC(=O)OC2=C(C)CCCC12"],"products_smiles": ["C12CCCCC1=CC(=O)CC2"],"conditions": "1. Ether solvent 2. H3O+ workup","mechnism_text_description": "The reaction sequence begins with the Fujimoto-Belleau reaction, a 1,4-conjugate nucleophilic addition of a Grignard reagent to an enol lactone. The resulting magnesium enolate is protonated during acidic workup and tautomerizes to a stable saturated lactone. This lactone then serves as a precursor for an intramolecular aldol condensation (a Robinson annulation). Under basic or thermal conditions, the lactone is believed to open to an intermediate keto-acid, which then cyclizes to form a β-hydroxy ketone. The final step is a dehydration of this aldol adduct to yield the thermodynamically stable α,β-unsaturated ketone.","mechanism_step_nums": 6,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1CC(CCCCC(C)C)([O-])OC2=C(C)CCCC12","rationale": "The nucleophilic carbon of the Grignard reagent attacks the β-position of the α,β-unsaturated lactone due to conjugation, forming a stabilized magnesium enolate."},{"step": 2,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[O-]C1=C(C)CCCC1CCCC(=O)(CCCCC(C)C)","rationale": "Elimination of the alkoxide occurs as the lactone ring opens, driven by relief of ring strain and formation of a stabilized conjugated carbonyl system."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "O=C1C(C)CCCC1CCC([O-])=C(CCCC(C)C)","rationale": "Protonation of the enolate oxygen under acidic workup yields a neutral carbonyl, favored by the high electrophilicity of the proton and stability of the resulting ketone."},{"step": 4,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1CC(=O)C(CCCC(C)C)C2([O-])C(C)CCCC12","rationale": "The enolate generated from the keto-acid intermediate attacks an intramolecular carbonyl, favored by proximity and formation of a stable five- or six-membered ring."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C1CC([O-])=C(CCCC(C)C)C2(O)C(C)CCCC12","rationale": "Proton transfer converts the alkoxide to a β-hydroxy ketone, stabilizing the intermediate and preparing it for dehydration."},{"step": 6,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C1CC(=O)C(CCCC(C)C)=C2C(C)CCCC12","rationale": "Elimination of water forms the α,β-unsaturated ketone, driven by conjugation between the alkene and carbonyl, giving the thermodynamically more stable product."}],"description": "A Grignard reagent performs a 1,4-conjugate addition to the enol lactone, forming a magnesium enolate. Acidic workup and tautomerization yield a lactone, which undergoes base/thermal-induced ring opening and intramolecular aldol condensation. Final dehydration produces the thermodynamically favored α,β-unsaturated ketone."}
{"reaction_id": "NR-218_1-C_2-C(C)(C)C","level": "medium","name": "Petrenko-Kritschenko Piperidone Synthesis","reactants_smiles": ["O=C(OCC)C(C)C(=O)C(C)C(=O)OCC","O=CC(C(C)(C)C)","N"],"products_smiles": ["C1(C(C)(C(NC(C(C)1C(OCC)=O)(CC(C)(C)C))(CC(C)(C)C))C(OCC)=O)=O"],"conditions": "acid","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "O=C(OCC)C(C)(C(N)C(C(C)(C)C))C(=O)C(C)C(=O)OCC","step_weight": 0,"rationale": "Ammonia attacks the aldehyde carbonyl due to its high electrophilicity, and acid catalysis enhances carbonyl polarization, facilitating imine precursor formation."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "O=C(OCC)C(C)(C(N=C(CC(C)(C)C))C(C(C)(C)C))C(=O)C(C)C(=O)OCC","step_weight": 0,"rationale": "The β-keto ester enolate, stabilized by resonance, attacks the iminium carbon, favored by strong electrophilicity and acid-promoted enolization."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1(C(C)(C(NC(C(C)1C(OCC)=O)(CC(C)(C)C))(CC(C)(C)C))C(OCC)=O)=O","step_weight": 0,"rationale": "Intramolecular attack is entropically favored; iminium electrophilicity and β-keto ester nucleophilicity drive cyclization to the thermodynamically stable piperidone."}],"description": "Under acidic conditions, ammonia first condenses with the aldehyde to form an imine, which is electrophilic. The β-keto ester enolate then attacks this iminium ion in a Mannich-type step. A second imine formation and intramolecular Mannich cyclization yield the piperidone ring."}
